US04226775
As described in Example 55, 4.0 g. of (S)-1-[3-(3-fluorobenzoyl)-2-methylpropionyl]-L-proline (isomer A); m.p. 182°-185° C. is brominated to give the bromo derivative of isomer A [mixture of [S-(R*,S*)]-1-[3-bromo-3-(fluorobenzoyl)-2-methylpropionyl]-L-proline and [S-(R*,R*)]-1-[3-bromo-3-(3-fluorobenzoyl)-2-methylpropionyl]-L-proline]. Separation of the mixture by chromatography on a prep LC/500 column with hexane-ethyl acetate-acetic acid (75:25:2) as solvent gives 1.68 g. of pure diastereomer labelled X and 0.74 g. of pure diastereomer labelled Y. Reaction of diastereomer labelled X with potassium thioacetate in ethanol for 4 days gives the products of the Example (mixture of diastereomers). Reaction of diastereomer labelled Y with potassium thioacetate in ethanol for 4 days gives the products of the Example (mixture of diastereomers). Chromatography of the mixture on a silica gel column with ethyl acetate-hexane-acetic acid (5:5:0.2) separates the diastereomers to give [S-(R*,S*)]-1-[3-acetylthio-3-(3-fluorobenzoyl)-2-methylpropionyl] -L-proline, m.p. 158°-159° C.; [α]D +252°±3(c, 0.318 ethanol) and [S-(R*,R*)]-1-[3 -acetylthio-3-(3-fluorobenzoyl)-2-methylpropionyl]-L-proline as a white glass, [α]D -147°±1(c, 0.834 ethanol).

reactant | 1-[3-bromo-3-(fluorobenzoyl)-2-methylpropionyl]-L-proline | BrC(C(C(=O)N1[C@H](C(=O)O)CCC1)C)C(C1=C(C=CC=C1)F)=O | C16H17BrFNO4
reactant | 1-[3-bromo-3-(3-fluorobenzoyl)-2-methylpropionyl]-L-proline | BrC(C(C(=O)N1[C@H](C(=O)O)CCC1)C)C(C1=CC(=CC=C1)F)=O | C16H17BrFNO4
reactant | potassium thioacetate | C(C)(=S)[O-].[K+]
reactant | ethyl acetate hexane acetic acid | C(C)(=O)OCC.CCCCCC.C(C)(=O)O
solvent | ethanol | C(C)O | C2H6O
product | 1-[3-acetylthio-3-(3-fluorobenzoyl)-2-methylpropionyl] -L-proline | C(C)(=O)SC(C(C(=O)N1[C@H](C(=O)O)CCC1)C)C(C1=CC(=CC=C1)F)=O | C18H20FNO5S
